US05554615
The t-butyl 4-[3-(2,4-diaminopyrrolo[3,2-d]pyrimidin-5-yl)propyl]benzoate (1 g, 2.7 mmol) prepared in the Example 1 was added to a mixture comprising dioxane (50 ml) and 1N aqueous hydrochloric acid (50 ml). The obtained mixture was stirred at 90° C. for one hour. After the completion of the reaction, the reaction mixture was concentrated, subjected to silica gel column chromatography and eluted with a solvent (ethyl acetate/methanol/acetic acid=7:1:1) to give 0.81 g of 4-[3-(2,4-diaminopyrrolo[3,2-d]pyrimidin-5-yl)propyl]benzoic acid. This acid, diethyl L-glutamate hydrochloride (1.61 g) and diphenylphosphoryl azide (DPPA) (1.65 ml) were added to DMF (35 ml), followed by the dropwise addition of triethylamine (2.2 ml) under cooling with ice. The obtained mixture was stirred under cooling with ice and thereafter at room temperature for 4 hours. After the completion of the reaction, the reaction mixture was concentrated, subjected to silica gel column chromatography and eluted with a solvent (ethyl acetate/methanol/acetic acid=8:1:1) to give an amide compound. This amide compound was dissolved in methanol (15 ml), followed by the dropwise addition of 1N aqueous sodium hydroxide (30 ml). The obtained mixture was stirred at room temperature for 5 hours and neutralized with 1N aqueous hydrochloric acid. The resulting reaction mixture was concentrated, subjected to silica gel column chromatography and eluted with a solvent (ethyl acetate/methanol/acetic acid=5:1:1). The obtained solid was washed with ethanol and a small amount of methanol to give a pale-yellow crystalline product (0.72 g). This product was recrystallized to give 0.35 g of the title compound (28%).

reactant | t-butyl 4-[3-(2,4-diaminopyrrolo[3,2-d]pyrimidin-5-yl)propyl]benzoate | 2.7 mmol, 1 g | NC=1N=C(C2=C(N1)C=CN2CCCC2=CC=C(C(=O)OC(C)(C)C)C=C2)N | C20H25N5O2
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(2,4-diaminopyrrolo[3,2-d]pyrimidin-5-yl)propyl]benzoic acid | 0.81 g | NC=1N=C(C2=C(N1)C=CN2CCCC2=CC=C(C(=O)O)C=C2)N | C16H17N5O2
